US07087626B2
Methansulfonic acid 3-(benzhydrylidene-hydrazinocarbonyl)-2-(3-methoxy-phenyl)-propyl ester
A solution of 4-hydroxy-3-(3-methoxy-phenyl)-butyric acid benzhydrylidene-hydrazide and (1.7 g, 4.38 mmol) and 4-dimethylaminopyridine (26 mg, 0.22 mmol) in pyridine (15 mL) is cooled to 0° C. treated with methanesulfonyl chloride (0.4 mL, 5.25 mmol) and stirred 18 h at room temperature. The mixture is diluted with dichloromethane (30 mL) and washed with 1 N hydrochloric acid (30 mL), a saturated solution of sodium bicarbonate and brine. The mixture is dried over magnesium sulfate, filtered, concentrated in vacuo and chromatographed on SiO2 (2% methanol/dichloromethane) to yield the title compound, 1.64 g (80%), as yellow foam.

reactant | 4-hydroxy-3-(3-methoxy-phenyl)-butyric acid benzhydrylidene-hydrazide | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC(CC(CO)C1=CC(=CC=C1)OC)=O | C24H24N2O3
reactant | methanesulfonyl chloride | 5.25 mmol, 0.4 mL | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 0.22 mmol, 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Methansulfonic acid 3-(benzhydrylidene-hydrazinocarbonyl)-2-(3-methoxy-phenyl)-propyl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC(=O)CC(COS(=O)(=O)C)C1=CC(=CC=C1)OC | C25H26N2O5S
